US06335445B1
2.2) 3,5-bis-(1,1-dimethylethyl)-4-hydroxy-N-[(4-aminophenyl)methyl]-benzamide
In a 250 ml Parr flask, 2.85 g (7.4 mmoles) of 3,5-bis-(1,1-dimethylethyl)-4-hydroxy-N-[(4-nitrophenyl)methyl]-benzamide is dissolved in 30 ml of an absolute ethanol/dichloromethane mixture (1/1) in the presence of 10% Pd/C. The mixture is agitated under 20 PSI of hydrogen, at 30° C., for one hour. After filtration on celite, the filtrate is concentrated under vacuum. The evaporation residue crystallizes spontaneously. It is left to rest overnight, the crystals are filtered out and rinsed with a mixture of diethyl ether (45 ml) and acetone (5 ml). 1.63 g (62%) of a white powder is obtained. Melting point: 188-189° C.

reactant | 3,5-bis-(1,1-dimethylethyl)-4-hydroxy-N-[(4-nitrophenyl)methyl]-benzamide | 7.4 mmoles, 2.85 g | CC(C)(C)C=1C=C(C(=O)NCC2=CC=C(C=C2)[N+](=O)[O-])C=C(C1O)C(C)(C)C | C22H28N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol dichloromethane | 30 ml | C(C)O.ClCCl
solvent | Pd/C | [Pd] | Pd
product | 3,5-bis-(1,1-dimethylethyl)-4-hydroxy-N-[(4-aminophenyl)methyl]-benzamide | 1.63 g, 62% | CC(C)(C)C=1C=C(C(=O)NCC2=CC=C(C=C2)N)C=C(C1O)C(C)(C)C | C22H30N2O2
